US07384952B2
To a solution of methyl 4-formylbenzoate (25 g) in methylene chloride (250 mL) is added successively N,N-dimethylethylenediamine (67 g), acetic acid (87 mL), and sodium triacetoxyborohydride (50.6 g). The mixture is stirred at room temperature overnight. The reaction mixture is concentrated in vacuo and to the residue is added a saturated potassium carbonate solution. The mixture is extracted with ethyl acetate, and the organic layer is dried over anhydrous sodium sulfate and concentrated in vacuo to give methyl 4-[[[2-(dimethylamino)ethyl]amino]methyl]-benzoate (31.9 g, yield; 89%) as a colorless oil. MS (APCI) m/z: 237 [M+H]+

reactant | methyl 4-formylbenzoate | 25 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | N,N-dimethylethylenediamine | 67 g | CN(CCN)C | C4H12N2
reactant | acetic acid | 87 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 50.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-[[[2-(dimethylamino)ethyl]amino]methyl]-benzoate | 31.9 g, yield; 89% | CN(CCNCC1=CC=C(C(=O)OC)C=C1)C | C13H20N2O2
